US09193726B2
{cis-5-[4-(Trifluoromethoxy)phenyl]tetrahydrofuran-2-yl}methanol was prepared from 5-bromofuran-2-carbaldehyde and [4-(trifluoromethoxy)phenyl]boronic acid using a method analogous to that described in footnote 21.

reactant | 5-bromofuran-2-carbaldehyde | BrC1=CC=C(O1)C=O | C5H3BrO2
reactant | [4-(trifluoromethoxy)phenyl]boronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | {cis-5-[4-(Trifluoromethoxy)phenyl]tetrahydrofuran-2-yl}methanol | FC(OC1=CC=C(C=C1)[C@@H]1CC[C@@H](O1)CO)(F)F | C12H13F3O3
